US04336268
Preparation of rac. 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-ethylamine
A solution of 1.0 g of 1-(m-methoxyphenyl)-N,N-dimethyl-3-cyclohexene-1-acetamide in 10 ml of absolute tetrahydrofuran is added to a suspension of 1 g of lithium aluminum hydride in 50 ml of absolute tetrahydrofuran, and the mixture is boiled at reflux overnight. After the addition of water, the separated precipitate is removed by filtration under suction and washed well with tetrahydrofuran, whereupon the filtrate is evaporated. The oil remaining behind is treated with 1 N hydrochloric acid. The neutral portion is taken up in ether. The acidic phase is made alkaline by the addition of concentrated ammonia and the liberated rac. 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-ethylamine is taken up in methylene chloride. The hydrochloride of this compound melts at 161°-162° C. (after recrystallization from ethyl acetate/ethanol).

reactant | 1-(m-methoxyphenyl)-N,N-dimethyl-3-cyclohexene-1-acetamide | 1.0 g | COC=1C=C(C=CC1)C1(CC=CCC1)CC(=O)N(C)C | C17H23NO2
reactant | lithium aluminum hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | rac. 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-ethylamine | COC=1C=C(C=CC1)C1(C=CCCC1)CCN(C)C | C17H25NO
